US03953501
N-(3-Carboxy-5-valeroylamino-2,4,6-triiodobenzoyl)-glycine Methylamide
Under agitation and water cooling, 31.5 ml. of valeroyl chloride is added dropwise to 45.8 g. (0.073 mole) of N-(3-carboxy-5-amino-2,4,6-triiodobenzyl)-glycine methylamide (Iv a), m.p. 252°-253° C. (under decomposition), in 120 ml. of dimethylacetamide. After agitating the reaction mixture overnight at room temprature, the product is precipitated by adding water; then, the product is vacuum-filtered and purified by dissolving the corresponding sodium salt and separation of the free acid by the addition of a mineral acid.

reactant | water | O | H2O
reactant | valeroyl chloride | C(CCCC)(=O)Cl | C5H9ClO
reactant | N-(3-carboxy-5-amino-2,4,6-triiodobenzyl)-glycine methylamide | 0.073 mole | CNC(CNCC1=C(C(=C(C(=C1I)N)I)C(=O)O)I)=O | C11H12I3N3O3
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | N-(3-Carboxy-5-valeroylamino-2,4,6-triiodobenzoyl)-glycine Methylamide | CNC(CNC(C1=C(C(=C(C(=C1I)NC(CCCC)=O)I)C(=O)O)I)=O)=O | C16H18I3N3O5
